US04824610
From an alkali blue process stream is isolated 274 g of crude pararosaniline nitrate, formed by adding concentrated aqueous sodium nitrate to the pararosaniline hydrochloride reaction mixture. The pararosaniline nitrate is dissolved in 650 g aniline at 80° C. to which 54 g of 50 percent aqueous sodium hydroxide is slowly added to bring the pH to 11.5 to 12.5. The aqueous layer is allowed to separate, is drawn off, and the organic layer allowed to cool. Crystals of pararosaniline carbinol base are isolated as a filter cake weighing 151 g and assaying 62 percent by weight pararosaniline carbinol. Following toluene wash to remove residual aniline, the dry, slightly pink carbinol base assays at 98 percent purity.

reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
reactant | pararosaniline hydrochloride | C1=CC(=N)C=CC1=C(C2=CC=C(C=C2)N)C3=CC=C(C=C3)N.Cl
reactant | pararosaniline nitrate | C1=CC(=CC=C1C(=C2C=CC(=N)C=C2)C=3C=CC(=CC3)N)N.[N+](=O)([O-])[O-]
reactant | sodium hydroxide | 54 g | [OH-].[Na+]
solvent | aniline | 650 g | NC1=CC=CC=C1 | C6H7N
product | pararosaniline carbinol | C1=CC(=CC=C1C(=C2C=CC(=N)C=C2)C=3C=CC(=CC3)N)N.CO | InChI=1S/C19H17N3.CH4O/c20-16-7-1-13(2-8-16)19(14-3-9-17(21)10-4-14)15-5-11-18(22)12-6-15;1-2/h1-12,20H,21-22H2;2H,1H3
